US07777047B2
N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-methyl-1H-indol-7-yl)-N-ethylthiophene-2-sulfonamide
To a solution of N-methyl-N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}thiophene-2-sulfonamide (0.20 g) and N-acetylpiperazine (0.11 g) in N,N-dimethylformamide (10 ml) was added potassium carbonate (0.14 g) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. The reaction solution was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to basic silica gel column chromatography (ethyl acetate:hexane=3:7-6:4), and the obtained colorless crystals was recrystallized from ethyl acetate-hexane to give the title compound (112 mg, yield 47%) as colorless crystals. melting point 157-158° C.

reactant | N-methyl-N-{2-[5-(chloromethyl)-1,3-thiazol-2-yl]-4-methyl-1H-indol-7-yl}thiophene-2-sulfonamide | 0.20 g | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC(=C2C=C(NC12)C=1SC(=CN1)CCl)C | C18H16ClN3O2S3
reactant | N-acetylpiperazine | 0.11 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(2-{5-[(4-acetylpiperazin-1-yl)methyl]-1,3-thiazol-2-yl}-4-methyl-1H-indol-7-yl)-N-ethylthiophene-2-sulfonamide | 112 mg, yield 47% | C(C)(=O)N1CCN(CC1)CC1=CN=C(S1)C=1NC2=C(C=CC(=C2C1)C)N(S(=O)(=O)C=1SC=CC1)CC | C25H29N5O3S3
